US07825253B2
N5-(3,5-Difluoro-phenyl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=366.1 (M+H+), was prepared in accordance with the general method of example 1 from 5-iodo-2-chloroquinoline (CAS 455955-26-7), 5-methyl-2-furanmethanamine and 3,5-difluoroaniline.

reactant | 5-iodo-2-chloroquinoline | IC1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClIN
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 3,5-difluoroaniline | FC=1C=C(N)C=C(C1)F | C6H5F2N
product | N5-(3,5-Difluoro-phenyl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine | FC=1C=C(C=C(C1)F)NC=1C=2C=CC(=NC2C=CC1)NCC=1OC(=CC1)C | C21H17F2N3O
